US08119661B2
Step G. The preparation of 2-fluoroethyl 3-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate (mixture of diastereomers)
A solution of (3aS,7aS)-1-[1-(3-methylpyrrolidin-3-yl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one (1 mmol) in water (10 mL) was added with potassium carbonate (4.0 equiv.) followed by 2-fluoroethyl chloroformate (1.2 equiv.) at room temperature and stirred at rt for 30 minutes. Extracted in ethyl acetate (2×10 mL), the combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography by eluting with methanol in ethyl acetate (0 to 5%) to afford the title compound (93 mg). 1H NMR (CD3OD, 400 MHz): δ 4.65 (t, 2H), 4.53 (t, 1H), 4.34 (m, 1H), 4.27 (m, 1H), 3.62 (m, 3H), 3.48-3.37 (m, 2H), 3.25 (t, 1H), 3.03-2.90 (m, 3H), 2.77 (br t, 1H), 2.47 (m, 3H), 1.98-1.60 (br m, 9H), 1.43 (m, 3H), 1.11 (s, 3H); MS (M+1): 397.30.

reactant | (3aS,7aS)-1-[1-(3-methylpyrrolidin-3-yl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one | 1 mmol | CC1(CNCC1)N1CCC(CC1)N1C(N[C@@H]2[C@@H]1CCCC2)=O | C17H30N4O
reactant | potassium carbonate | 4.0 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroethyl chloroformate | 1.2 equiv. | ClC(=O)OCCF | C3H4ClFO2
solvent | water | 10 mL | O | H2O
product | 2-fluoroethyl 3-[4-[(3aS,7aS)-2-oxo-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-1-yl]-1-piperidyl]-3-methyl-pyrrolidine-1-carboxylate | 93 mg | O=C1N[C@@H]2[C@@H](N1C1CCN(CC1)C1(CN(CC1)C(=O)OCCF)C)CCCC2 | C20H33FN4O3
